data/mechanisms/records/IMS8-EQ8.9b.json
{"mechanism_id": "IMS8-EQ8.9b", "species": [{"species_id": "molecular_ion", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH:5]=[CH:6][C:7](=[O+:8])[CH3:9]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "keto_primary_cation", "mapped_smiles": "[CH2+:2][CH2:3][CH:5]=[CH:6][C:7](=[O:8])[CH3:9]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "alkyl_radical_R", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_molecular_ion", "species_ids": ["molecular_ion"]}, {"state_id": "state_products_rejected", "species_ids": ["keto_primary_cation", "alkyl_radical_R"]}], "steps": [{"step_id": "step_direct_cleavage", "from_state": "state_molecular_ion", "to_state": "state_products_rejected", "step_class": "sigma_dissociation_charge_migration", "semantics": "net_fragmentation", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [8]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_rejected", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_direct_cleavage", "support_type": "contradicted", "locator": {"page": 146, "equation": "8.9", "figure": null, "panel": null, "section": "8 / Detailed Mechanisms of Ion Fragmentation"}, "confidence": 0.8, "curator_note": "REJECTED pathway: the book crosses out this arrow (an X is drawn through it) and draws NO curved arrows for it -- only the net pieces are shown: R. + a PRIMARY carbocation (H2C+) bearing a neutral, non-conjugated carbonyl (the gamma-H is NOT rearranged). It is disfavored because the charge lands on an unstabilized primary carbon instead of being delocalized onto oxygen; the competing rH -> alpha route (record IMS8-EQ8.9) gives the resonance-stabilized C6H9O+ oxocarbenium of identical mass. Because no arcs are drawn, the electron flow encoded here is the curator's minimal balanced net reaction: the R-C bond breaks homolytically, one electron leaving with R. (move 1) while the second electron migrates to quench the O+. radical to a neutral carbonyl (move 2), leaving the positive charge on the primary carbon. Move 2 registers as a soft 'lone pair rather than radicals' note in the arrow checker (an electron pairs with the O radical: radical count 1 -> 0)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 112.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_rejected_primary_cation", "species_id": "keto_primary_cation", "step_id": "step_direct_cleavage", "observed_mz": 97.0648, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "rejected", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed"}}
